US09388161B2
A 30-mL glass-lined stainless steel reactor was charged with 5-cyclobutoxy-7,8-difluoro-2-methylquinoline (4.2 g, 16.9 mmol), Cp*Ru(OTf)[(S,S)-TsDPEN](0.100 g, 0.13 mmol) and methanol (10 mL). The reactor was closed and hydrogen was introduced in at a pressure of 50 atm, before being reduced to 1 atm. After this procedure was repeated three times, the reactor was pressurized with hydrogen to 50 atm. The resulting mixture was stirred under this hydrogen pressure for 24 h at room temperature. After carefully releasing the hydrogen, the reaction mixture was concentrated under vacuum. The residue purified via column chromatography on silica gel (eluting with 25% ethyl acetate/petroleum ether) to afford (S)-5-cyclobutoxy-7,8-difluoro-2-methyl-1,2,3,4-tetrahydroquinoline (1.4 g, 33%, 87% ee) as colorless oil.

reactant | 5-cyclobutoxy-7,8-difluoro-2-methylquinoline | 16.9 mmol, 4.2 g | C1(CCC1)OC1=C2C=CC(=NC2=C(C(=C1)F)F)C | C14H13F2NO
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 mL | CO | CH4O
product | (S)-5-cyclobutoxy-7,8-difluoro-2-methyl-1,2,3,4-tetrahydroquinoline | 1.4 g, 33% | C1(CCC1)OC1=C2CC[C@@H](NC2=C(C(=C1)F)F)C | C14H17F2NO
